US08039474B2
3-cyano-2,3,4,9-tetrahydro-1H-carbazole
A mixture of 4-cyano-cyclohexanone (0.48 g, 3.9 mmol) and phenylhydrazine hydrochloride (0.42 g, 3.9 mmol) in glacial acetic acid (5 ml) is stirred at reflux for 1 h. The solvent is evaporated and the residue chromatographed on silica gel (heptane/EtOAc 2:1) to deliver the title compound as a brownish solid (158 mg) in 50% yield. tR (LC-5) 0.91 min; ESI-MS (positive ion): m/z 197.10 [M+H]+ (calcd 196.25 for C13H12N2). 1H-NMR (CDCl3): 2.25 (m, 2H); 2.96 (m, 5H); 7.14 (m, 2H); 7.30 (d, J=7.7 Hz, 1H); 7.45 (d, J=7.1 Hz, 1H); 7.79 (br s, 1H).

reactant | 4-cyano-cyclohexanone | 3.9 mmol, 0.48 g | C(#N)C1CCC(CC1)=O | C7H9NO
reactant | phenylhydrazine hydrochloride | 3.9 mmol, 0.42 g | Cl.C1(=CC=CC=C1)NN
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-cyano-2,3,4,9-tetrahydro-1H-carbazole | 50% yield | C(#N)C1CCC=2NC3=CC=CC=C3C2C1 | C13H12N2
